US07459562B2
D) 4-(2-Fluoro-4-nitrophenoxy)-3-vinylpyridin-2-amine
The title compound was prepared from 4-(2-fluoro-4-nitrophenoxy)-3-iodopyridin-2-amine and tributylvinyltin via a Stille coupling reaction in the same manner as described in Step B of Example 33. 1H NMR (DMSO-d6) δ 8.35 (dd, 1H, J=10.7, 3.1 Hz), 8.09 (d, 1H, J=9.2 Hz), 7.85 (d, 1H, J=5.6 Hz), 7.31-7.15 (m, 1H), 6.54 (dd, 1H, J=17.8, 11.7 Hz), 6.24 (br s, 2H), 6.20 (d, 1H, J=5.6 Hz), 5.71 (d, 1H, J=17.8 Hz), 5.46 (d, 1H, J=11.7 Hz); MS(ESI+): m/z 276.17 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-3-iodopyridin-2-amine | FC1=C(OC2=C(C(=NC=C2)N)I)C=CC(=C1)[N+](=O)[O-] | C11H7FIN3O3
reactant | tributylvinyltin | C(CCC)C(=C(CCCC)CCCC)[Sn]
product | 4-(2-Fluoro-4-nitrophenoxy)-3-vinylpyridin-2-amine | FC1=C(OC2=C(C(=NC=C2)N)C=C)C=CC(=C1)[N+](=O)[O-] | C13H10FN3O3
